US08809352B2
4-Chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
A mixture of 4-hydroxy-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (1.4 g, 5.6 mmol) and triphenylphosphine (2.9 g, 11.1 mmol) was stirred in DCE (41 mL) until the solution became clear, and then carbon tetrachloride (1.6 mL, 16.7 mmol) was added. The reaction mixture was heated to 70° C. and stirred for 2.5 hours. The volatiles were removed in vacuo and the crude material was directly purified by flash chromatography on silica gel (0-50% EtOAc/heptanes) to afford the title compound as an off-white solid (1.31 g, 87% yield). MS (ESI) m/e (M+H+): 269.73

reactant | 4-hydroxy-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 5.6 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)O | C12H17N3O3
reactant | triphenylphosphine | 11.1 mmol, 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 16.7 mmol, 1.6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCE | 41 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 1.31 g, 87% yield | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)Cl | C12H16ClN3O2
